US08012998B2
a) 1-[(3RS,4SR)-1-Benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-propan-1-one
To a solution of (3RS,4SR)-1-benzyl-4-(3,4-dichloro-phenyl)-pyrrolidine-3-carboxylic acid methoxy-methyl-amide (described herein above) 377 mg (0.959 mmol) dissolved in THF (4 mL) was added 0.676 mL (1.15 mmol) of ethyllithium (1.7M in dibutylether) dropwise at −78° C. and stirred for one hour. The reaction was quenched by aq. ammonium chloride solution and extracted with ethylacetate. The separated organic layer was dired on anhydrous sodium sulfate and concentrated in vaccuo. The residue was purified by silica gel column chromatography eluted by a mixture of heptane and ethyl acetate (10:1) yielding 212 mg (61%) of the title compound as a light yellow oil. ES-MS m/e: 362.2 (M+H+).

reactant | (3RS,4SR)-1-benzyl-4-(3,4-dichloro-phenyl)-pyrrolidine-3-carboxylic acid methoxy-methyl-amide | 0.959 mmol, 377 mg | CON(C(=O)C1CN(CC1C1=CC(=C(C=C1)Cl)Cl)CC1=CC=CC=C1)C | C20H22Cl2N2O2
reactant | ethyllithium | 1.15 mmol, 1.7M, 0.676 mL | C(C)[Li]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 1-[(3RS,4SR)-1-Benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-propan-1-one | 212 mg, 61% | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC(=C(C=C1)Cl)Cl)C(CC)=O | C20H21Cl2NO
